US06034055
16c N-[2-(N-tert-Butyloxycarbonyl-glycyl-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-oleamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-oleamide and N-tert-butyloxycarbonyl-glycyl-glycine. Yield 74%. [α]D =+14.2° (c=1.00, tetrahydrofuran).

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-oleamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCC)N | C40H77N3O6
reactant | N-tert-butyloxycarbonyl-glycyl-glycine | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)O | C9H16N2O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(N-tert-Butyloxycarbonyl-glycyl-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-oleamide | Yield 74% | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCC)N | C49H91N5O10
